US07598264B2
6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide 2-oxide
6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide (24 g, 63.5 mmol) was dissolved in 1000 mL glacial acetic acid and per-acetic acid (32% by weight in acetic acid, 151 mL, 635 mmol) and sodium acetate (2.6 g, 31.7 mmol) was added. The reaction was warmed to 50° C. and aged overnight at which time LCMS showed the reaction done. The solution reduced in volume to ⅓ on the rotoevaporator, cooled in an ice bath and quenched slowly with 10% Na2SO3 solution until no peroxide was detected by a starch paper test. The reaction was transferred to a separatory funnel and water (500 mL) and chloroform was added. The layers were separated and the water extracted with CHCl3 several times. The combined organic layers were washed with slightly acidic water, brine and dried over Na2SO4, filtered and evaporated to give the product as an oil. The initial NMR shows an excessive number of methyl group peaks, perhaps as a result of oxalyl chloride reacting with dimethylamine in the second step and this impurity being carried through. A small sample was purified by reverse phase chromatography eluting with 95:5-5:95 water/acetonitrile 0.1% TFA to give clean material for NMR.

reactant | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | 63.5 mmol, 24 g | ClC=1C=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)N(C)C)O)=O)C=CC1F | C18H17ClFN3O3
reactant | per-acetic acid | 635 mmol, 151 mL | C(C)(=O)OO | C2H4O3
reactant | sodium acetate | 31.7 mmol, 2.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1000 mL | C(C)(=O)O | C2H4O2
product | 6-(3-Chloro-4-fluorobenzyl)-4-hydroxy-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide 2-oxide | ClC=1C=C(CN2C(C3=C(C=[N+](C(=C3CC2)C(=O)N(C)C)[O-])O)=O)C=CC1F | C18H17ClFN3O4
